US07432256B2
b) 2-(5-Dimethylaminomethyl-4-methyl-imidazol-1-yl)-3-fluoro-benzonitrile
In analogy to example 5b, 3-fluoro-2-(4-methyl-imidazol-1-yl)-benzonitrile was reacted with Eschenmoser's salt in DMF for 16 h at 90° C. Evaporation of the solvent, aqueous workup and chromatography (SiO2, dichloromethane:methanol=100:0 to 98:2) afforded the title compound as a light yellow oil (yield: 13%). 1H-NMR (400 MHz, DMSO): δ=1.91 (s, 6H), 2.17 (s, 3H), 3.17 (s, 2H), 7.72-7.92 (m, 4H)

reactant | 3-fluoro-2-(4-methyl-imidazol-1-yl)-benzonitrile | FC=1C(=C(C#N)C=CC1)N1C=NC(=C1)C | C11H8FN3
reactant | Eschenmoser's salt | C[N+](=C)C.[I-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(5-Dimethylaminomethyl-4-methyl-imidazol-1-yl)-3-fluoro-benzonitrile | yield: 13% | CN(C)CC1=C(N=CN1C1=C(C#N)C=CC=C1F)C | C14H15FN4
